US08669234B2
Piperidine-1,4-dicarboxylic acid monobenzyl ester (40.2 g, 0.15 mol) in dichloromethane (300 mL) was treated with oxalyl chloride (100 g, 0.79 mol). The reaction mixture was stirred at ambient temperature for 4 hours and the mixture was concentrated to afford crude 4-chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester (43 g), which was used without further purification.

reactant | Piperidine-1,4-dicarboxylic acid monobenzyl ester | 0.15 mol, 40.2 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)O | C14H17NO4
reactant | oxalyl chloride | 0.79 mol, 100 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 4-chlorocarbonyl-piperidine-1-carboxylic acid benzyl ester | 43 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C(=O)Cl | C14H16ClNO3
